US09163021B2
[5-Cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetic Acid
A mixture of ethyl [5-cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetate (Preparation 120, 23.9 g, 0.1 mol) in 10% KOH (100 mL) was stirred at 75° C. for 18 hours. The reaction was cooled and acidified with 10% HCl to pH 3, and extracted with chloroform (3×100 mL). The organic extract was dried over Na2SO4 and concentrated in vacuo. The residue was dissolved in ether and crystallized in a refrigerator at −20° C. The precipitated crystals were separated by filtration, washed with cold ether, and vacuum-dried to give the title compound as a white crystalline substance in a form of light plates (16.9 g, 93.2%).

reactant | ethyl [5-cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetate | 0.1 mol, 23.9 g | C1(CC1)C1=C(N=C(O1)COC)CC(=O)OCC | C12H17NO4
reactant | HCl | Cl | ClH
solvent | KOH | 100 mL | [OH-].[K+]
product | [5-Cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetic Acid | C1(CC1)C1=C(N=C(O1)COC)CC(=O)O | C10H13NO4
